US08703951B2
A mixture of 2-(4-chlorobenzoyl)-9-methyl-1,2,3,4-tetra-hydropyrido[3,4-b]indole-3-carboxylic acid (4 g, 10.8 mmol), DMAD (2.3 g, 16.3 mmol) in AC20 (30 mL) was heated at 80° C. for 2 h. The reaction mixture evaporated in vacuo to dryness. The residue was recrystallized from MeOH to give dimethyl 3-(4-chlorophenyl)-6-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate, 3.5 g, (72%); mp 264-265° C. 1H NMR (DMSO-d6) δ 3.60 (6H, s, 2×COOMe), 3.78 (3H, s, NMe), 4.30 (2H, s, CH2), 5.18 (2H, s, CH2), 7.06-7.10 (1H, m, ArH), 7.17-7.20 (1H, m, ArH), 7.45-7.47 (1H, m, ArH), 7.54-7.59 (5H, m, 5×ArH). Anal. Calcd for (C25H21ClN2O4): C, 66.89; H, 4.72; N, 6.24. Found: C, 66.82; H, 4.63; N, 6.24.

reactant | 2-(4-chlorobenzoyl)-9-methyl-1,2,3,4-tetra-hydropyrido[3,4-b]indole-3-carboxylic acid | 10.8 mmol, 4 g | ClC1=CC=C(C(=O)N2CC=3N(C4=CC=CC=C4C3CC2C(=O)O)C)C=C1 | C20H17ClN2O3
reactant | DMAD | 16.3 mmol, 2.3 g | COC(=O)C#CC(=O)OC | C6H6O4
product | dimethyl 3-(4-chlorophenyl)-6-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | ClC1=CC=C(C=C1)C1=C(C(=C2CC3=C(N(C=4C=CC=CC34)C)CN12)C(=O)OC)C(=O)OC | C25H21ClN2O4
